US05055466
I. L-Histidine, methyl ester, dihydrochloride
To a stirred solution (ice-bath) of L-histidine (38.75 g, 240 mmol) in methanol (500 ml), thionyl chloride (27.2 ml, 375 mmol) was added in drops. After fifteen minutes the ice bath was removed and the reaction mixture was stirred at room temperature for one hour. Then after refluxing for 48 hours, it was concentrated in vacuo. The separated crystals were filtered using methanol for washing (48.93 g). The methanolic solution on dilution with ether afforded additional 10 g of the title I compound, m.p. 208-209°.

reactant | L-histidine | 240 mmol, 38.75 g | N[C@@H](CC1=CNC=N1)C(=O)O | C6H9N3O2
reactant | thionyl chloride | 375 mmol, 27.2 ml | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 500 ml | CO | CH4O
product | L-Histidine, methyl ester, dihydrochloride | Cl.Cl.N[C@@H](CC1=CNC=N1)C(=O)OC | InChI=1S/C7H11N3O2.2ClH/c1-12-7(11)6(8)2-5-3-9-4-10-5;;/h3-4,6H,2,8H2,1H3,(H,9,10);2*1H/t6-;;/m0../s1
